US07750017B2
Step 7 Preparation of 7-bromo-N-{3-chloro-4-[(3-fluorobenzyl)oxy]phenyl}[1]benzothieno[2,3-d]pyrimidin-4-amine
7-Bromo-4-chloro[1]benzothieno[2,3-d]pyrimidine (7.00 g, 23.4 mmol), 3-chloro-4-(3-fluoro-benzyloxy)-phenylamine (5.88 g, 23.4 mmol), and HCl in dioxane (1 mL, 4.0 M) were heated to reflux in IPA (140 mL) for 3 days. The suspension was filtered to collect a light tan solid. The solid was re-suspended in EtOAc (350 mL) and treated with satd NaHCO3 (350 mL) to generate two clear phases. The organic phase was washed with water (350 mL), collected, dried with sodium sulfate, filtered, concentrated on a rotavap, and finally placed under high vacuum to yield an off-white solid (10.34 g, 86%). 1H NMR (DMSO-d6) δ 9.06 (s, 1H), 8.53 (s, 1H), 8.49 (d, 1H), 8.43 (s, 1H), 7.74 (d, 1H), 7.71 (s, 1H), 7.50 (d, 1H), 7.47-7.42 (m, 1H), 7.32-7.16 (m, 4H), 5.26 (s, 2H), LCMS RT=4.42 min, [M+H]+=514.3.

reactant | 7-Bromo-4-chloro[1]benzothieno[2,3-d]pyrimidine | 23.4 mmol, 7.00 g | BrC1=CC2=C(C=C1)C1=C(N=CN=C1Cl)S2 | C10H4BrClN2S
reactant | 3-chloro-4-(3-fluoro-benzyloxy)-phenylamine | 23.4 mmol, 5.88 g | ClC=1C=C(C=CC1OCC1=CC(=CC=C1)F)N | C13H11ClFNO
reactant | HCl | Cl | ClH
solvent | dioxane | 4.0 M, 1 mL | O1CCOCC1 | C4H8O2
solvent | IPA | 140 mL | CC(C)O | C3H8O
product | 7-bromo-N-{3-chloro-4-[(3-fluorobenzyl)oxy]phenyl}[1]benzothieno[2,3-d]pyrimidin-4-amine | 10.34 g, 86% | BrC1=CC2=C(C=C1)C1=C(N=CN=C1NC1=CC(=C(C=C1)OCC1=CC(=CC=C1)F)Cl)S2 | C23H14BrClFN3OS
